US08217064B2
To a stirred solution of ethyl 2-(3-(benzo[c][1,2,5]thiadiazol-5-yl)-5-chloro-4-(cyclopropylmethoxy)phenyl)-4-methylpentanoate (0.22 g, 0.479 mmol) in a mixture of THF (5 mL), methanol (5 mL) and water (2 mL) was added LiOH.H2O (60.3 mg, 1.438 mmol) at room temperature and the mixture was stirred at RT for 2 h. After complete consumption of starting material as monitored by TLC, the reaction mixture was diluted with water (10 mL) and acidified using 1 N HCl at 0° C. The aqueous layer was extracted with EtOAc (2×20 mL); combined organic extracts were washed with water (10 mL), brine (20 mL), dried over anhydrous Na2SO4 and concentrated in vacuo. The crude material was purified by column chromatography to afford 2-(3-(benzo[c][1,2,5]thiadiazol-5-yl)-5-chloro-4-(cyclopropylmethoxy)phenyl)-4-methyl pentanoic acid (105 mg, 50.0%) as an off white solid. 1HNMR (500 MHz) (CDCl3): δ (ppm) 8.18 (s, 1H), 8.03 (d, 1H), 7.96 (d, 1H), 7.42 (s, 1H), 7.18 (s, 1H), 3.68 (t, 1H), 3.43 (d, 2H), 2.00 (m, 1H), 1.70 (m, 1H), 1.58 (m, 1H), 0.98 (d, 6H), 0.88 (m, 1H), 0.38 (d, 2H), 0.0 (m, 2H).

reactant | ethyl 2-(3-(benzo[c][1,2,5]thiadiazol-5-yl)-5-chloro-4-(cyclopropylmethoxy)phenyl)-4-methylpentanoate | 0.479 mmol, 0.22 g | N=1SN=C2C1C=CC(=C2)C=2C=C(C=C(C2OCC2CC2)Cl)C(C(=O)OCC)CC(C)C | C24H27ClN2O3S
reactant | methanol | 5 mL | CO | CH4O
reactant | water | 2 mL | O | H2O
reactant | LiOH.H2O | 1.438 mmol, 60.3 mg | O[Li].O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(3-(benzo[c][1,2,5]thiadiazol-5-yl)-5-chloro-4-(cyclopropylmethoxy)phenyl)-4-methyl pentanoic acid | 105 mg, 50.0% | N=1SN=C2C1C=CC(=C2)C=2C=C(C=C(C2OCC2CC2)Cl)C(C(=O)O)CC(C)C | C22H23ClN2O3S
